US07544702B2
Pipsyl chloride 25 g was dissolved in dichloromethane 250 ml to which was added a solution of ethyl amine 2M, in THF 42 ml and triethylamine 9 g in dichloromethane 100 ml over 30 min. The mixture was stirred a further 1 h at room temperature and then washed with water and 1N hydrochloric acid, dried (MgSO4) and evaporated in vacuo to give N-ethyl-4-iodo-benzenesulfonamide as a white solid, 26.2 g. 1H NMR 7.88 (2H, d), 7.59 (2H, d), 4.65 (1H, m), 3.01 (2H, m), 1.11 (3H, t).

reactant | Pipsyl chloride | 25 g | C1=CC(=CC=C1S(=O)(=O)Cl)I | C6H4ClIO2S
reactant | ethyl amine | 2M | C(C)N | C2H7N
reactant | triethylamine | 9 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | THF | 42 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-ethyl-4-iodo-benzenesulfonamide | C(C)NS(=O)(=O)C1=CC=C(C=C1)I | C8H10INO2S
